US07465733B2
11.6 g of tert-butyl piperazine-1-carboxylate (62 mmol) and 8.2 g of indene oxide (62 mmol) are dissolved in 30 ml of acetonitrile. The reaction mixture is then heated at 60° C. overnight and evaporated to dryness. The residue obtained is purified by flash chromatography on 1 kg of silica (eluant: dichloromethane/ethanol 95/5) to yield tert-butyl trans-4-(2-hydroxy-2,3-dihydro-1H-inden-1-yl)piperazine-1-carboxylate in the form of a white meringue.

reactant | tert-butyl piperazine-1-carboxylate | 62 mmol, 11.6 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | indene oxide | 62 mmol, 8.2 g | C12C(CC3=CC=CC=C13)O2 | C9H8O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | tert-butyl trans-4-(2-hydroxy-2,3-dihydro-1H-inden-1-yl)piperazine-1-carboxylate | O[C@H]1[C@@H](C2=CC=CC=C2C1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H26N2O3
